US07625932B2
Preparation of 4-cyano-5-ethyl-1-methyl-3-{4-[2-(propane-2-sulfonylamino)-ethoxy]-phenyl}-1H-pyrrole-2-carboxylic acid ethyl ester
Prepare the title compound in a manner analogous to the procedure set forth in Example E-281, using 4-cyano-5-ethyl-1-methyl-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyrrole-2-carboxylic acid ethyl ester (478 mg, 1.4 mmol, prepared in preparation 50), N-[2-(bromo-phenoxy)-ethyl]-i-propanesulfonamide (385 mg, 1.2 mmol, prepared in preparation 82), aqueous sodium carbonate (3.0 mL, 6.0 mmol, 2N), and [1,1′-bis(diphenyl-phosphino)-ferrocene]dichloropalladium(II) complex with methylene chloride (1:1) (30 mg, 0.04 mmol) to give 533 mg (99%) of the title compound. Mass spectrum (ES+)=446.1 (M−1).

reactant | 4-cyano-5-ethyl-1-methyl-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyrrole-2-carboxylic acid ethyl ester | 1.4 mmol, 478 mg | C(C)OC(=O)C=1N(C(=C(C1B1OC(C(O1)(C)C)(C)C)C#N)CC)C | C17H25BN2O4
reactant | N-[2-(bromo-phenoxy)-ethyl]-i-propanesulfonamide | 1.2 mmol, 385 mg | BrC1=C(OCCNS(=O)(=O)C(C)C)C=CC=C1 | C11H16BrNO3S
reactant | sodium carbonate | 6.0 mmol, 2N, 3.0 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | methylene chloride | 0.04 mmol, 30 mg | C(Cl)Cl | CH2Cl2
product | 4-cyano-5-ethyl-1-methyl-3-{4-[2-(propane-2-sulfonylamino)-ethoxy]-phenyl}-1H-pyrrole-2-carboxylic acid ethyl ester | 533 mg, 99% | C(C)OC(=O)C=1N(C(=C(C1C1=CC=C(C=C1)OCCNS(=O)(=O)C(C)C)C#N)CC)C | C22H29N3O5S
